US06262089B1
b) (R)-1-[3-[[3-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-(3,4-dimethoxy-benzyl)-amino]propionyl]-pyrrolidine-2-carboxylic acid tert-butyl ester
A solution of 1.0 g (4.44 mmol) (R)-1-acryloyl-pyrrolidine-2-carboxylic acid tert-butyl ester and 0.33 ml (2.22 mmol) veratrylamine in 25 ml acetonitrile was stirred for 16 h at 80° C. Concentration in vacuo abash chromatography (gradient: 0-10% MeOH in EtOAc) afforded 150 mg (10%) of the title compound as a light brown oil. MS m/e (%): 618 (M+H+, 100).

reactant | (R)-1-acryloyl-pyrrolidine-2-carboxylic acid tert-butyl ester | 4.44 mmol, 1.0 g | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(C=C)=O | C12H19NO3
reactant | veratrylamine | 2.22 mmol, 0.33 ml | C(C1=CC(OC)=C(OC)C=C1)N | C9H13NO2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | (R)-1-[3-[[3-[(R)-2-tert-Butoxycarbonyl-pyrrolidin-1-yl]-3-oxo-propyl]-(3,4-dimethoxy-benzyl)-amino]propionyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 150 mg, 10% | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(CCN(CC1=CC(=C(C=C1)OC)OC)CCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C33H51N3O8
